US04035512
To a solution of 5.0 g. of 2-amino-6-benzyloxy-1-hydroxy-5-nitro-1,2,3,4-tetrahydronaphthalene hydrochloride in 50 ml. of methanol are added 5.0 g. of lithium cyanoborohydride and 150 ml. of acetone, and the mixture is stirred at room temperature for 3 hours. The reaction mixture is added in water and the resulting crystals are recovered by filtration, rinsed with water, dried and dissolved in alcoholic hydrochloric acid. After treatment with activated carbon, ethyl ether is added, whereupon 4.7 g. of 6-benzyloxy-2-isopropylamino-5-nitro-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride is obtained as colorless needles melting at 268°-270° C.

reactant | 2-amino-6-benzyloxy-1-hydroxy-5-nitro-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.NC1C(C2=CC=C(C(=C2CC1)[N+](=O)[O-])OCC1=CC=CC=C1)O
reactant | methanol | CO | CH4O
reactant | lithium cyanoborohydride | C(#N)[BH3-].[Li+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 6-benzyloxy-2-isopropylamino-5-nitro-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C(=C2CCC(C(C2=CC1)O)NC(C)C)[N+](=O)[O-] | InChI=1S/C20H24N2O4.ClH/c1-13(2)21-17-10-8-15-16(20(17)23)9-11-18(19(15)22(24)25)26-12-14-6-4-3-5-7-14;/h3-7,9,11,13,17,20-21,23H,8,10,12H2,1-2H3;1H
